US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-fluoro-phenylboronic acid to give [1-(3-fluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 335(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 3-fluoro-phenylboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | [1-(3-fluoro-phenyl)-6-methoxy-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | FC=1C=C(C=CC1)C1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C19H15FN4O
